US06184242B2
A solution of 4-(4-azidomethylbenzyl)-nitrobenzene (5.835 g) in tetrahydrofuran (175 mL) was treated with water (0.43 mL) and triphenylphosphine (6.45 g, 1.1 eg). The mixture was stirred at room temperature for 18 hours, and the solvent was evaporated. The residue was suspended in water, and suspension made acidic by the dropwise addition of hydrochloric acid to about pH 1, then extracted with diethyl ether (3×). The aqueous phase was made alkaline with 50% aqueous sodium hydroxide, extracted with dichloromethane (3×) to afford a crude brown oil (5.66 g). Chromatography on silica gel, eluting with dichloromethane/methanol/ammonium hydroxide, gave 4-(4-aminomethylbenzyl)-nitrobenzene (3.91 g, 79%) as a yellow solid.

reactant | 4-(4-azidomethylbenzyl)-nitrobenzene | 5.835 g | N(=[N+]=[N-])CC1=CC=C(CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H12N4O2
reactant | water | 0.43 mL | O | H2O
reactant | triphenylphosphine | 6.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 175 mL | O1CCCC1 | C4H8O
product | 4-(4-aminomethylbenzyl)-nitrobenzene | 3.91 g, 79% | NCC1=CC=C(CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H14N2O2
